US08865736B2
2,6-Difluoro-3-[(6-methyl-1,3-benzothiazol-2-yl)methoxy]benzenecarboxamide
Synthesised from 6-methyl-1,3-benzothiazol-2-amine and 3-(cyanomethoxy)-2,6-difluorobenzene carboxamide, according to Method K, scheme 26. Yield 17% (second step), HPLC-MS (method 1): m/z 335 [M+H]+, Rt=3.70 min.

reactant | 6-methyl-1,3-benzothiazol-2-amine | CC1=CC2=C(N=C(S2)N)C=C1 | C8H8N2S
reactant | 3-(cyanomethoxy)-2,6-difluorobenzene carboxamide | C(#N)COC=1C(=C(C(=CC1)F)C(=O)N)F | C9H6F2N2O2
product | 2,6-Difluoro-3-[(6-methyl-1,3-benzothiazol-2-yl)methoxy]benzenecarboxamide | Yield 17% | FC1=C(C(=CC=C1OCC=1SC2=C(N1)C=CC(=C2)C)F)C(=O)N | C16H12F2N2O2S
